* D:\home\brosnan\books\circuits\Circuits-LTSpice\Temperature-variation-simulation\Temperature-Variation-and-Worst-case-LTSpice.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 12
R1 N002 0 {wc(10k, tol)}
D1 N002 N001 BZX84C6V2L
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.step temp -20 100 120
.tran 1
* Temperature Variation Analysis with LTSpice and worst case analysis
* Temperature sweep from -20 degrees to 100 degrees with 120 degrees steps
.param tol=0.2
.step param run 1 50 1
.function wc(nom, tol) if(run==1, nom, if(flat(1) > 0, nom*(1+tol), nom*(1-tol)))
* Obtained from:\nhttps://k6jca.blogspot.com/2012/07/monte-carlo-and-worst-case-circuit.html
.backanno
.end
