* D:\home\brosnan\books\circuits\Circuits-LTSpice\Temperature-variation-simulation\Temperature-sweep-simulation.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 10 Rser=1m
V2 N002 0 3.3 Rser=1m
R1 N002 N003 10k
R2 N004 0 100
Q1 N003 N004 0 0 2N3904
Q2 N001 N003 N004 0 2N3904
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 1 0 1m
.step temp 0, 50, 10
* Temperature sweep simulation
.backanno
.end
