* D:\home\brosnan\books\circuits\Circuits-LTSpice\AC-DC and DC-AC converters\Three-phase-full-bridge-inverter.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N003 0 380
C1 N003 N006 1m Rser=1m Rpar=1Meg
C2 N006 0 1m Rser=1m Rpar=1Meg
R1 N013 N008 1
L1 N013 N018 10m
S1 N007 N003 Ta_p 0 SW
D1 N007 N003 D
S2 0 N007 Ta_m 0 SW
D2 0 N007 D
Vc1 N002 0 SINE(0 8 160)
X§U1 N002 Vt Vcc Vee N001 LT1720 ;§pnba In+)In-)V+)V-)OUT
V4 Vcc 0 10
V5 Vee 0 -10
E§U2 Ta_p Ta_m G={G}
V2 Vt 0 PULSE(-10 10 0 0.03124m 0.03124m 0.00002m 0.0625m)
E§U3 N001 Ta_p G={G} G=100
R2 N006 0 1
R3 N003 N006 1
S3 N008 N003 Tb_p 0 SW
D3 N008 N003 D
S4 0 N008 Tb_m 0 SW
D4 0 N008 D
S5 N009 N003 Tc_p 0 SW
D5 N009 N003 D
S6 0 N009 Tc_m 0 SW
D6 0 N009 D
Vc2 N005 0 SINE(0 8 160 0 0 120)
X§U4 N005 Vt Vcc Vee N004 LT1720 ;§pnba In+)In-)V+)V-)OUT
E§U5 Tb_p Tb_m G={G}
E§U6 N004 Tb_p G={G} G=100
Vc3 N011 0 SINE(0 8 160 0 0 240)
X§U7 N011 Vt Vcc Vee N010 LT1720 ;§pnba In+)In-)V+)V-)OUT
E§U8 Tc_p Tc_m G={G}
E§U9 N010 Tc_p G={G} G=100
R4 N012 N007 1
L2 N012 N018 10m
R5 N014 N009 1
L3 N014 N018 10m
R6 N015 N007 1
L4 N015 N008 10m
R7 N016 N008 1
L5 N016 N009 10m
R8 N017 N009 1
L6 N017 N007 10m
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model SW SW(Ron=1u Roff=100Meg Vt=90)
.tran 60m
* Control signal frequency is 160 Hz\nFirst harmonic of voltage should be 160 Hz (Note current has 160 Hz and a ripple)\n \nFirst voltage harmonic amplitude of phase voltage is: V1 = ma Vd / 2 = (8/10)*(380) = 152V\nFirst harmonic voltage frequency is 160Hz\nFirst current harmonic amplitude is: I1 = V1/Z1 = 15 A\nWith Z1 = sqrt(1+(2pi*160*10mH)^2)\n \nLine to line voltage amplitude is V12 = sqrt(3)  ma Vd / 2 = sqrt(3)*(8/10)*(380) = 263 V
* Load
* Leg A
* Leg B
* Leg C
* Full bridge 3 phase inverter: PWM sinusoidal modulation
* Library below included based on ModelFile attribute of instance X§U1, X§U4, X§U7 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1721.asy)
.lib LT1720.sub
.backanno
.end
