* D:\home\brosnan\books\circuits\Circuits-LTSpice\AC-DC and DC-AC converters\Three-phase-naive-supply-system.asc
* Generated by LTspice 26.0.1 for Windows.
C1 N009 N008 1µ
R1 N009 0 5k
X§U1 N004 N009 N005 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
R2 0 N004 1k
R3 N005 N004 1k
C2 N006 N005 1µ
R4 N006 0 5k
X§U2 N002 N006 Phase3 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
R5 0 N002 1k
R6 Phase3 N002 1k
X§U3 N011 0 Phase2 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
C4 N015 N008 1µ
R10 N015 0 5k
X§U4 N012 N015 N013 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
R11 0 N012 1k
R12 N013 N012 1k
R7 N011 N013 1k
R8 Phase2 N011 1k
R9 N007 P001 1m
L1 P001 0 120.5µ
R13 N016 P002 1m
L2 P002 0 120.5µ
V3 N008 0 SINE(0 1 18.37) AC 1
R14 N019 P003 1m
L3 P003 0 120.5µ
R15 N001 N007 2.5
R16 N010 N016 2.5
R17 N017 N019 2.5
V5 Vcc 0 3
Q1 Vcc N003 N001 0 2N3904
X§U5 N001 Phase3 N003 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
V4 Vee 0 -3
Q2 Vee N003 N001 0 2N2907
Q3 Vcc N014 N010 0 2N3904
X§U6 N010 Phase2 N014 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
Q4 Vee N014 N010 0 2N2907
Q5 Vcc N018 N017 0 2N3904
X§U7 N017 N008 N018 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
Q6 Vee N018 N017 0 2N2907
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
;ac dec 1000 1 20
.lib opamp.sub
.tran 0 500ms 300ms
* Out 120 in advance over V1. 60 per filter.
* Out 120 delayed with respect to V2. (V2 = V1).  + 60 then -180.
* Three phase naive supply system
* Phase 1
* Phase 1
* R15 - R16 - R17 power resistor to limit current draw. With Vf = 1V and\n R = 1 Ohm, in the winding circulates a 1 A current peak to peak.
* Switch supply
* Three phase load
.backanno
.end
