* D:\home\brosnan\books\circuits\Circuits-LTSpice\AC-DC and DC-AC converters\Three-phase-rectifier.asc
* Generated by LTspice 26.0.1 for Windows.
V1 0 N002 SINE(0 -141 50 0 0 0)
V2 0 N003 SINE(0 -141 50 0 0 120)
V3 0 N004 SINE(0 -141 50 0 0 240)
D1 N002 N001 D
D2 N005 N004 D
D3 N003 N001 D
D4 N005 N002 D
D5 N004 N001 D
D6 N005 N003 D
I1 N001 N005 200
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 20m
* Three phase AC/DC diode bridge rectifier
* Transient simulation
.backanno
.end
