* D:\home\brosnan\books\circuits\Circuits-LTSpice\Transformer\Transformer-step-down-5-1.asc
* Generated by LTspice 26.0.1 for Windows.
Lp N001 0 100µ
Ls 0 N002 4µ
Vs N001 0 SINE(0 100 60) Rser=0.0001
RL N002 0 1kOhms
K Lp Ls 1
.tran 0 0.1 0.001
* Step down transformer 5:1
* Ideal step down 5:1 transformer
.backanno
.end
