* D:\home\brosnan\books\circuits\Circuits-LTSpice\Transformer\Transformer-step-down-up.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 SINE(0 10 50Hz) Rser=0.0001
L1 0 N001 16µ
L2 0 N002 4µ
R_load N002 0 1
Lp 0 N003 100µ
Ls 0 N004 4µ
R_load1 N004 0 1
V2 N003 0 SINE(0 10 50Hz) Rser=0.0001
V3 N005 0 SINE(0 10 50Hz) Rser=0.0001
L3 0 N005 4µ
L4 0 N006 16µ
R_load2 N006 0 1
L5 0 N007 4µ
L6 0 N008 100µ
R_load3 N008 0 1
V4 N007 0 SINE(0 10 50Hz) Rser=0.0001
K1 L1 L2 1
.tran 0 100ms 0 0.5ms
* Ideal step down transformer
* Ideal 2:1 step down\ntransformer
K2 Lp Ls 1
* Ideal 5:1 step down\ntransformer
* Primary side
* Secondary side
* Coupling coefficient:\n \nK L1 L2 L3 ... Ln coupling_coeff\n \nAll the windings on the same iron core should be included after the K.\n \nThe coupling coefficient determines the leakage inductance as follows:\nL_leak = L*(1-K^2)\nWhere L is the winding inductance\n \nHow to determine the inductance ratio starting from the turn ratio:\n1. Suppose turn ratio N1/N2 is given say it is 2.\n2. Inductance of a winding is L1 = N1^2 * gamma1. gamma1 indicates the permeance seen from winding 1.\nInductance is proportional to the square of the turn ratio.\n3. Set L1 and L2 such that L1/L2 = (N1/N2)^2. If L2 = 4 uH then L1 = 4*4 uH = 16 uH.
K3 L3 L4 1
* Ideal 1:2 step up\ntransformer
* Primary side
* Secondary side
* Primary side
* Secondary side
K4 L5 L6 1
* Ideal 1:5 step up\ntransformer
* Primary side
* Secondary side
.backanno
.end
