* D:\home\brosnan\books\circuits\Circuits-LTSpice\Sources and regulators\Voltage-regulator-npn.asc
* Generated by LTspice 26.0.1 for Windows.
Q1 Vin N002 OUT 0 2N3904
Q2 Vin N001 N002 0 2N3904
X§U1 Vref OUT Vcc Vee N001 LT1001 ;§pnba In+)In-)V+)V-)OUT
V1 Vee 0 -15
V2 Vcc 0 15
V3 Vin 0 5
R1 OUT 0 500
V4 Vref 0 {VV}
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.step param VV 1 5 0.5
.op
* Very simple current regulator with opamp controlling voltage on R1.
* Voltage regulator
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1001.asy)
.lib LTC.lib
.backanno
.end
