* D:\home\brosnan\books\circuits\Circuits-LTSpice\Comparator circuits\Window-comparator.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vcc 0 12
Vin N003 0 SINE(0 10 1)
X§U2 N003 N004 Vcc 0 N002 LT1018 ;§pnba In+)In-)V+)V-)OUT
R1 Vcc N001 10k
R2 N001 N004 10k
R3 N004 0 10k
R4 N002 0 10k
X§U1 N001 N003 Vcc 0 N002 LT1018 ;§pnba In+)In-)V+)V-)OUT
.tran 1
* Notes:\n1) Output high only for VL < Vin < Vh\n2) VL = Vcc * R3/(R1+ R2 + R3) = 4V\n3) Vh = Vcc * (R2+R3)/(R1+ R2 + R3) = 8V\n4) U1 and U2 should be open collector comparators and R4 should be connected to Vcc instead of GND,
* Library below included based on ModelFile attribute of instance X§U2, X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1018.asy)
.lib LT1018.sub
.backanno
.end
