* D:\home\brosnan\books\circuits\Circuits-LTSpice\Worst-case-scenario-simulation\Worst-Case-Scenario-Simulation-LTSpice.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 AC 1
C1 N002 N001 {wc_a(10u, tolb)}
R1 N002 Vout {wc_a(10k, tola)}
R2 Vout 0 {wc_a(10k, tola)}
C2 Vout 0 {wc_a(1u, tolb)}
.param tola=0.1
.param tolb=0.2
.step param run 1 40 1
.ac dec 10 1 1k
* Resistors' tolerance 10%
* Capacitors' tolerance 20%
* Worst Case Scenario analysis in LTSpiceIV
.function wc_a(nom, tol)  if(run==1, nom, if(flat(1) > 0, nom*(1 + tol), nom*(1 - tol) ) )
* Note: this approach does not guarantee to simulate all\nthe possible combinations of extreme values, As the number\nof simulations approaches infinity, the probability of convering\nall the extreme values approaches 1.
* Obtained from:\nhttps://k6jca.blogspot.com/2012/07/monte-carlo-and-worst-case-circuit.html
.backanno
.end
