* D:\home\brosnan\books\circuits\Circuits-LTSpice\Loads\constant-P-R-I-loads.asc
* Generated by LTspice 26.0.1 for Windows.
B1 N002 0 P=1
R1 N001 N002 100m
V1 N001 0 PULSE(11 12 0 1 1 1 3)
R2 N003 N004 100m
V2 N003 0 PULSE(11 12 0 1 1 1 3)
R3 N005 N006 100m
V3 N005 0 PULSE(11 12 0 1 1 1 3)
R4 N004 0 1
B2 N006 0 I=1
* Arbitrary behavioural voltage source: constant power load
* Constant resistance load
* Constant current load
* Constant P, R, I loads
.tran 3
.backanno
.end
