* D:\home\brosnan\books\circuits\Circuits-LTSpice\Mixer-circuits\diode-ring-mixer.asc
* Generated by LTspice 26.0.1 for Windows.
L1 0 N001 1m
L2 N006 0 1m
L3 output N004 1m
L4 N003 output 1m
L5 0 N002 1m
L6 0 N005 1m
V§LO N002 0 SINE(0 10 7Meg) Rser=1m
Vrf N005 0 SINE(0 10 10Meg) Rser=1m
R1 output 0 5k
D2 N004 N001 1N5819
D3 N006 N004 1N5819
D1 N003 N006 1N5819
D4 N001 N003 1N5819
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
K1 L1 L2 L5 1
K2 L3 L4 L6 1
.tran 3u
* Local oscillator
* RF signal
* A
* B
* Diode ring mixer
* C
* D
* What the circuit does:\nIt multiplies the input signal Vrf by a square wave (+/-1) which has the same frequency of the local oscillator LO\n \nHow it works:\n \n1. When Vcd > 0 -> D1 and D4 conduct (D2 and D3 are reverse biased).\nA is at ground potential because E is at ground potential and A is in the middle of two identical diodes.\nL4 conducts and its end labelled as F is at ground potential.\nThe Vrf signal is therefore mirrored as it is at the output R1.\nIt's as if the Vrf signal is multiplied by 1.\n \n2. When Vcd < 0 -> D2 and D3 conduct (D1 and D4 are reverse biased)\nB is at ground potential because E is at ground potential and A is in the middle of two identical diodes.\nL3 conducts and its end at the node B is at ground potential.\nThe Vrf signal is mirrored reversed (!) at the output R1.\nIt's as if the Vrf signal is multiplied by -1.\n \n3. BOTTOM LINE:\nWhen local oscillator voltage is high, -> Input signal Vrf is multiplied by 1.\nWhen local oscillator voltage is low, -> Input signal Vrf is multiplied by -1.\n \nThe Vrf signal is therefore multiplied by a square wave which has a frequency equal to the frequency of the local oscillator.\n \nIf we multiply 2 sinewave toghether:\ncos(w1*t)*cos(w2*t) = 0.5 * cos((w1+w2)*t) + 0.5 * cos((w1-w2)*t)\n \nIf we use a square wave like in the circuit, we also get a lot of harmonics.\n \nIn the example in the circuit:\n-> The local oscillator LO oscillates at 7 MHz\n-> The RF signal Vrf oscillates at 10 MHz\n \nWe can expect V(output) to have two main frequency components: one at (10-7) = 3 MHz and the other at (10+7)=17 MHz. This can be seen in the FFT of the output signal
* RF transformer:\n3 inductances wound\non the same magnetic\ncore
* E
* F
* Output is = LO*squarewave\nsquarewave is either 1 or -1
.backanno
.end
