* D:\home\brosnan\books\circuits\Circuits-LTSpice\Overvoltage protection circuits\overvoltage-protection-zener-diodes.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 PULSE(12 40 0.5 1u 1u 0.1 1 2)
D1 N003 N002 BZX84C12VL
R1 N002 0 10k
D2 N003 0 BZX84C12VL
R2 N001 N002 10
V2 0 N004 PULSE(-12 40 0.5 1u 1u 0.1 1 2)
D3 N006 N005 BZX84C12VL
R3 N005 0 10k
D4 N006 0 BZX84C12VL
R4 N004 N005 10
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2.5
* Protection from positive and negative overvoltages in input stages with zener diodes:\n \nIf I have an overvoltage on V1, the voltage is clamped at Vz + Vd\n(zener voltage plus a diode forward voltage drop). D2 is acting as a \nnormal diode.\n \nIf I have an overvoltage on V2 with reverse polarity, the same occurs\nD3 is acting as a normal diode.
* Circuit input\nstage
.backanno
.end
