* D:\home\brosnan\books\circuits\Circuits-LTSpice\Input stages\professional-input-stage.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N002 N001 Fuse
D1 N002 N003 D
D2 N007 N003 D
R2 N002 N007 R
R3 N002 N004 100
C1 N004 N007 0.1µ V=1kV
L1 N007 N002 L
L2 0 Vcc L
C2 Vcc 0 2200µ
R4 Vcc 0 R
D3 N005 Vcc D
D4 N006 Vcc D
D5 0 N005 D
D6 0 N006 D
V§Mains_voltage N001 N007 230V
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
* EMI Filter
* Clamping diodes
* Varistor (MOV)
* RC snubber
* Diode bridge
* Step down transformer
* Smoothing capacitor
* Bleeder resistor\nto discharge cap
* To low voltage circuit
.backanno
.end
