* D:\home\brosnan\books\circuits\Circuits-LTSpice\Comparator circuits\other circuits with hysteresis\schmitt_trigger_bjts_2.asc
* Generated by LTspice 26.0.1 for Windows.
R1 Vcc Vout 1k
R2 Vout N003 18k
R3 N003 0 910
R4 N003 N002 10k
R5 Vcc N001 1k
R6 N001 N004 18k
Q1 N001 N003 0 0 2N3904
Q2 Vout N004 0 0 2N3904
V1 Vcc 0 12
R§Photoresistor1 N005 0 {R}
R§POT1 Vcc N005 8k tol=1 pwr=0.1
E1 N002 0 N005 0 1
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.step param R 1 40k 0.5k
.backanno
.end
