* D:\home\brosnan\books\circuits\Circuits-LTSpice\Soft-starters\soft-starter-12V.asc
* Generated by LTspice 26.0.1 for Windows.
R1 Vcc Vcap 100k
R2 Vcap 0 100k
C1 Vcap 0 10µ
M1 N002 Vcap 0 0 IRF2805
L1 Vcc N001 100µ
D1 N002 Vcc 1N4148
R_limit Vcc V_load 3.3
V1 Vcc 0 12
S1 V_load Vcc Vcc N002 RELAY
R4 N001 N002 333
C2 V_load 0 1m
R5 V_load 0 100
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 3 startup
.model RELAY SW(Ron=1m Roff=1Meg Vt=11)
.ic V(Vcap)=0 V(V_load)=0
* Relay
* Soft-starter by Greatscott
* Load
* Functioning:\n1) When power is applied, mosfet is off and current through the load is limited by R_limit and the ESR of the capacitor\n2) As soon as Vcap is sufficient to turn on the mosfet, R_limited is shortcircuited and the load is directly connected to Vcc
.backanno
.end
