* D:\home\brosnan\books\circuits\Circuits-LTSpice\Zero-crossing-detectors\zero-crossing-detector-2.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N003 N005 SINE(0 12 50)
D1 N003 N001 1N5819
D2 0 N005 1N5819
D3 N005 N001 1N5819
D4 0 N003 1N5819
R1 output N002 10k
D5 N001 N002 1N5819
R2 N004 N001 10k
Q1 output N004 0 0 2N3904
C1 N002 0 100µ
R3 N001 0 10k
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 50m
* How it works:\n \n1. During the positive half cycles of the rectified wave the capacitor C1 gets charged.\n2. When the half waves are higher than 0.8-1V Q1 is ON and therefore the output is low.\nIn the meanwhile, the capacitor C1 gets charged through D6.\n3. When the half wave goes lower than 0.8-1V, Q1 is shut down -> the output goes high.\n \nNotes:\n1. D1, D2, D3 and D4 form a full bridge rectifier which rectifies the sinewave V1.\n2. D5 allows to charge the capacitor and feed the transistor with almost constant current.\n3. R3 and R2 form the bias network for the transistor.\n4. C1 keeps the voltage roughly constant after the diode. R1 limits the discharge current through Q1.\n5. This configuration works well for low voltage applications.
* Zero crossing detector
.backanno
.end
