* D:\home\brosnan\books\circuits\Circuits-LTSpice\Zero-crossing-detectors\zero-crossing-detector.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N003 N004 SINE(0 230 50)
D1 N003 N001 1N5819
D2 0 N004 1N5819
D3 N004 N001 1N5819
D4 0 N003 1N5819
R1 N002 N001 1k
X§U1 N002 0 out 0 NC_01 4N25 ;§pnba A)K)C)E)B
R2 out Vcc 1k
V2 Vcc 0 12
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 50m
* Zero crossing detector
* How it works:\n \n1. The rectifier rectifies the input AC.\n2. The positive half waves, as long as they are higher than 10V push curren through the phototransistor pulling the output low.\n3. When the positive half waves go lower than 10V the phototransistor shuts down and the output goes high.\n \nNotes:\n1. Can be used with high voltages.
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Optos\4N25.asy)
.lib 4N25.sub
.backanno
.end
