* D:\home\brosnan\books\circuits\Circuits-LTSpice\Oscillators\Adjustable-duty-cycle-555-square-wave-oscillator.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 0 N002 N003 Vcc N006 N002 N001 Vcc NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
V1 Vcc 0 12
R1 N003 0 10k
C1 N006 0 100n
D1 N001 N005 1N4148
D2 N004 N001 1N4148
R2 N002 N004 POT
R3 N005 N002 POT
C2 N002 0 100n
R4 Vcc N001 1k
C3 Vcc 0 100µ
C4 Vcc 0 100µ
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
* Leg 1 POT
* Leg 2 POT
* Variable duty cycle square wave oscillator with 555 timer
* OUT
* 10K pot
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
.backanno
.end
