* D:\home\brosnan\books\circuits\Circuits-LTSpice\Current-mirrors\Current-mirrors.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vcc 0 12
V2 VL 0 1
Q1 VL N001 0 0 2N3904
Q2 N001 N001 0 0 2N3904
R1 Vcc N001 11.4k
Q3 VL N002 N004 0 2N3904
Q4 N002 N002 N003 0 2N3904
R2 Vcc N002 10.4k
R3 N003 0 1k
R4 N004 0 500
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.dc V2 0 10 0.1
* Sizing:\n \n1) Set reference current -> 1 mA\n2) Iref = (Vcc-Vbe)/R1 -> R1 = (Vcc-Vbe)/R1 = (12-0.6)/1m =11.4k\n \nOutput resistance Rout = ?
* The following relation holds: Io/Iref = R3/R4\n \nSizing:\n1) Set Iref = I(R2) = 1mA\n2) Set V(R3) = 1 V -> R3 = 1k ohm\n3) If we want Io = 2 Iref -> R3/R4 = 2 -> R4 = 500 ohm\n4) R is given by R = (Vcc - Vbe - V(R3))/Iref = (12-0.6-1)/1m = 10.4 k ohm
* Io
* Iref
* Current mirrors
* DC sweep analysis
.backanno
.end
