* D:\home\brosnan\books\circuits\Circuits-LTSpice\Basics\Example-of-DC-sweep.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0
R1 N002 N001 1k
D1 N002 0 1N4148
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.dc V1 -10 10 3
* Example of DC sweep in LTSpice
.backanno
.end
